US06800629B2
In 8 mL of dimethylformamide was dissolved 0.4 g of 6-chloro-3-(4-hydroxyphenoxy)-2-pyrazinecarbonitrile. After adding 0.5 ml of iodomethane and 0.89 g of potassium carbonate, the mixture thus obtained was stirred at room temperature for 30 minutes. The reaction mixture was added to a mixture of 10 mL of ethyl acetate and 30 mL of water, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. Thus, 0.43 g of 6-chloro-3-(4-methoxyphenoxy)-2-pyrazinecarbonitrile was obtained as a yellow-brown colored solid product.

reactant | 6-chloro-3-(4-hydroxyphenoxy)-2-pyrazinecarbonitrile | 0.4 g | ClC1=CN=C(C(=N1)C#N)OC1=CC=C(C=C1)O | C11H6ClN3O2
reactant | iodomethane | 0.5 ml | IC | CH3I
reactant | potassium carbonate | 0.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 6-chloro-3-(4-methoxyphenoxy)-2-pyrazinecarbonitrile | 0.43 g | ClC1=CN=C(C(=N1)C#N)OC1=CC=C(C=C1)OC | C12H8ClN3O2
